US08247401B2
Step A: tert-butyl 3-(methylsulfonyl)benzoate
The mixture of tert-butyl 3-bromobenzoate (7.0 g, 27.2 mmol), sodium methanesulfinate (4.45 g, 43.6 mmol), copper(I) iodide (0.52 g, 2.72 mmol), L-proline (0.63 g, 5.44 mmol) and sodium hydroxide (0.22 g, 5.44 mmol) was purged with nitrogen and DMSO was added. The mixture was heated to 80° C. After 18 h, the mixture was cooled to ambient temperature. Additional sodium methanesulfinate (2.78 g, 27.2 mmol), copper(I) iodide (0.52 g, 2.72 mmol), L-proline (0.63 g, 5.44 mmol) were added and the mixture was stirred at 80° C. for another 18 h. The mixture was cooled to ambient temperature and filtered with Celite. Lithium chloride (3.0 M in water) was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with LiCl (3.0 M in water), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→75% hexanes/ethyl acetate) gave the title compound (5.05 g).

reactant | tert-butyl 3-bromobenzoate | 27.2 mmol, 7.0 g | BrC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C11H13BrO2
reactant | sodium methanesulfinate | 43.6 mmol, 4.45 g | CS(=O)[O-].[Na+]
reactant | L-proline | 5.44 mmol, 0.63 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 5.44 mmol, 0.22 g | [OH-].[Na+]
reactant | sodium methanesulfinate | 27.2 mmol, 2.78 g | CS(=O)[O-].[Na+]
reactant | L-proline | 5.44 mmol, 0.63 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
catalyst | copper(I) iodide | 2.72 mmol, 0.52 g | [Cu]I
catalyst | copper(I) iodide | 2.72 mmol, 0.52 g | [Cu]I
product | tert-butyl 3-(methylsulfonyl)benzoate | 5.05 g | CS(=O)(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C12H16O4S
